US05217643
27 g (168.8 mM) of 2,3-dicyanohydroquinone and 22.2 g (337 mM) of 85%-potassium hydroxide were dissolved in a mixture solvent of 65 ml of methanol and 302 ml of dimethylformamide, followed by heating to 50° C. To the solution, 33.4 g (202.4 mM) of hexyl bromide were added dropwise in 25 minutes, followed by heating to 100° C. and stirring for 3 hours. The reaction mixture was poured into cold water and washed with ether. The water layer was acidified with 6N-hydrochloric acid to provide a pH value of 1, followed by precipitation of a crystal. The crystal was extracted with ether, and the ether layer was washed with 5%-sodium hydrogen-carbonate aqueous solution and further washed with water, followed by distilling-off of the solvent to obtain a crude product. The crude product was treated with activated carbon and recrystalized from methanol to obtain 13.1 g of 2,3-dicyano-4-hexyloxyphenol.

reactant | 2,3-dicyanohydroquinone | 168.8 mM, 27 g | C(#N)C1=C(O)C=CC(=C1C#N)O | C8H4N2O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | hexyl bromide | 202.4 mM, 33.4 g | C(CCCCC)Br | C6H13Br
reactant | water | O | H2O
solvent | methanol | 65 ml | CO | CH4O
solvent | dimethylformamide | 302 ml | CN(C=O)C | C3H7NO
product | 2,3-dicyano-4-hexyloxyphenol | 13.1 g | C(#N)C1=C(C=CC(=C1C#N)OCCCCCC)O | C14H16N2O2
